US07648997B2
3-Chloroperoxybenzoic acid (14.9 g, 66.4 mmol)(mCPBA, available as an approximately 77% pure mixture) was added to a solution of 2-[3-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione (25.0 g, 60.3 mmol) in chloroform (200 mL), and the reaction was stirred for seven hours at room temperature. An analysis by liquid chromatography/mass spectrometry (LC/MS) indicated that the reaction was incomplete, and additional mCPBA (4.96 g, 22.1 mmol) was added. The reaction was allowed to stir at room temperature overnight. The solution was then washed with brine (2×100 mL) and saturated aqueous sodium bicarbonate (2×100 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide a fluffy, light-brown solid. The solid was dried under high vacuum for one hour to provide 25.7 g of 2-[3-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione as a white solid.

reactant | 3-Chloroperoxybenzoic acid | 66.4 mmol, 14.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 2-[3-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione | 60.3 mmol, 25.0 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCON1C(C2=CC=CC=C2C1=O)=O | C24H22N4O3
reactant | mCPBA | 22.1 mmol, 4.96 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione | 25.7 g | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C(=N2)CCC)CCCON2C(C1=CC=CC=C1C2=O)=O | C24H22N4O4
